US07745452B2
6N Hydrochloric acid (6.0M, 257 mmol) was added to N-[4-chloro-2-(trifluoroacetyl)phenyl]-2,2-dimethylpropanamide (3.3 g, 10.7 mmol) in anhydrous dimethoxyethane (40 ml) at room temperature and mixture was heated to reflux conditions for two hours until no starting material was observed by LC/MS. After cooling reaction to 0° C., reaction was basified to pH 9 by adding solid sodium bicarbonate in portions. Reaction was extracted with ethyl acetate (3×150 ml), and combined organic extracts were dried over MgSO4 and Na2SO4. After filtering mixture, the collected filtrate was concentrated in vacuo to give a crude yellow solid. Flash chromatography of the crude solid on silica gel (0-25% ethyl acetate/hexanes) afforded 1-(2-amino-5-chlorophenyl)-2,2,2-trifluoroethanone as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ 7.70 (m, 1H), 7.32 (dd, J=2.4 and 9.2 Hz, 1H), 6.68 (d, J=8.8 Hz, 1H), 6.46 (s, 2H). MS (Electrospray): m/z 223.9 (M+).

reactant | Hydrochloric acid | 257 mmol, 6N | Cl | ClH
reactant | N-[4-chloro-2-(trifluoroacetyl)phenyl]-2,2-dimethylpropanamide | 10.7 mmol, 3.3 g | ClC1=CC(=C(C=C1)NC(C(C)(C)C)=O)C(C(F)(F)F)=O | C13H13ClF3NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
product | 1-(2-amino-5-chlorophenyl)-2,2,2-trifluoroethanone | NC1=C(C=C(C=C1)Cl)C(C(F)(F)F)=O | C8H5ClF3NO
